US07943652B2
A solution of 2-methyl-1H-indole (1.0 g, 7.6 mmol) in acetonitrile (25 mL) was treated with 2-bromoacetate (2.54 mL, 22.9 mmol), cesium carbonate (2.10 g, 11.4 mmol) and potassium iodide (253 mg, 1.52 mmol) and the resulting mixture was stirred at room temperature for 16 h. The mixture was diluted with ethyl acetate, washed with water and brine, dried over sodium sulfate, filtered, and concentrated, and the residue was purified to give (2-methyl-indol-1-yl)-acetic acid ethyl ester (1.36 g, 82% yield). LCMS (m/z): 218.1 (M+1).

reactant | 2-methyl-1H-indole | 7.6 mmol, 1.0 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | 2-bromoacetate | 22.9 mmol, 2.54 mL | BrCC(=O)[O-]
reactant | cesium carbonate | 11.4 mmol, 2.10 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 1.52 mmol, 253 mg | [I-].[K+]
reactant | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-methyl-indol-1-yl)-acetic acid ethyl ester | 1.36 g, 82% yield | C(C)OC(CN1C(=CC2=CC=CC=C12)C)=O | C13H15NO2
